US06441017B1
Step O: (R)-2-Fluoro-4-(5-{[1-(3 -hydroxybenzyl)-2-oxopyrrolidin-3-ylamino]methyl}imidazol-1-ylmethyl)benzonitrile
(R)-3-Amino-1-(3-hydroxybenzyl)-2-oxopyrrolidine hydrochloride, as described above in Step N, (200 mg, 0.82 mmol) and 1-(4-cyano-3-fluorobenzyl)-5-imidazolecarboxaldehyde, as described above in Step G, (197 mg, 0.86 mmol), were stirred in MeOH (7 mL) and N,N-diisopropylethylamine was added dropwise to adjust the mixture to ca. pH 5, as judged by wetted pH paper. The mixture was stirred for 1 hour at ambient temperature, then NaCNBH3 (54 mg, 0.86 mmol) was added and stirring was continued for 18 hours. The reaction was quenched with saturated aqueous NaHCO3 (2 mL) and most of the MeOH was removed under reduced pressure. The residual solution was partitioned between saturated aqueous NaHCO3 (3 mL) and CH2Cl2 (10 mL). The aqueous layer was extracted further with CH2Cl2 (3×10 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with two column volumes of EtOAc—10% MeOH, then two column volumes of CHCl3—4% MeOH, then CHCl3—4% MeOH—0.4% NH4OH to yield the titled product as a colorless oil.

reactant | (R)-3-Amino-1-(3-hydroxybenzyl)-2-oxopyrrolidine hydrochloride | Cl.N[C@H]1C(N(CC1)CC1=CC(=CC=C1)O)=O
reactant | 1-(4-cyano-3-fluorobenzyl)-5-imidazolecarboxaldehyde | C(#N)C1=C(C=C(CN2C=NC=C2C=O)C=C1)F | C12H8FN3O
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaCNBH3 | 0.86 mmol, 54 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 7 mL | CO | CH4O
product | (R)-2-Fluoro-4-(5-{[1-(3 -hydroxybenzyl)-2-oxopyrrolidin-3-ylamino]methyl}imidazol-1-ylmethyl)benzonitrile | FC1=C(C#N)C=CC(=C1)CN1C=NC=C1CN[C@H]1C(N(CC1)CC1=CC(=CC=C1)O)=O | C23H22FN5O2
